US07319109B2
a) 2-Chloro-4-{[3-(2,6-dichlorophenyl)-5-isopropylisoxazol-4-yl]methoxy}benzaldehyde.
A mixture of 4-(chloromethyl)-3-(2,6-dichlorophenyl)-5-isopropylisoxazole (1 g, 3.28 mmol), 2-chloro-4-hydroxybenzaldehyde (498 mg, 3.18 mmol), potassium carbonate (431 mg, 3.12 mmol), sodium iodide (98 mg, 0.66 mmol) in acetone (20 mL) was refluxed for 5 h. The reaction was concentrated and the residue was partitioned with ethyl acetate and water. The organic layer was washed with brine, dried over anhydrous magnesium sulfate, filtered, and condensed to a residue which was chromatographed on silica gel eluting with 200% ethyl acetate/hexanes. Yield=0.98 g (71%) of 2-chloro-4-{[3-(2,6-dichlorophenyl)-5-isopropylisoxazol-4-yl]methoxy}-benzaldehyde.

reactant | 4-(chloromethyl)-3-(2,6-dichlorophenyl)-5-isopropylisoxazole | 3.28 mmol, 1 g | ClCC=1C(=NOC1C(C)C)C1=C(C=CC=C1Cl)Cl | C13H12Cl3NO
reactant | 2-chloro-4-hydroxybenzaldehyde | 3.18 mmol, 498 mg | ClC1=C(C=O)C=CC(=C1)O | C7H5ClO2
reactant | potassium carbonate | 3.12 mmol, 431 mg | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 0.66 mmol, 98 mg | [I-].[Na+]
solvent | acetone | 20 mL | CC(=O)C | C3H6O
product | 2-Chloro-4-{[3-(2,6-dichlorophenyl)-5-isopropylisoxazol-4-yl]methoxy}benzaldehyde | ClC1=C(C=O)C=CC(=C1)OCC=1C(=NOC1C(C)C)C1=C(C=CC=C1Cl)Cl | C20H16Cl3NO3
